US07705035B2
Step 3: Methyl 4-{(1S)-1-[(2,3-dihydro-1H-indol-7-ylcarbonyl)amino]ethyl}benzoate
tert-butyl 7-[({(1S)-1-[4-(methoxycarbonyl)phenyl]ethyl}amino)carbonyl]indoline-1-carboxylate (510 mg, 1.2 mmol) was dissolved in CH2Cl2 (5 ml) and TFA (5 ml) was added, the solution was stirred for 1 hour. The solvent was removed. NaHCO3 (sat.) was added and extracted 3× with EtOAc. The combined organic layers were washed with water and brine, then dried over MgSO4. 1H NMR (500 MHz, DMSO-d6): δ 8.50 (d, 1H), 7.90 (d, 2H), 7.55 (m, 3H), 7.10 (d, 1H), 6.50 (m, 2H), 5.15 (m, 1H), 3.85 (s, 3H), 3.50 (m, 2H), 2.90 (m, 2H), 1.40 (d, 3H).

reactant | tert-butyl 7-[({(1S)-1-[4-(methoxycarbonyl)phenyl]ethyl}amino)carbonyl]indoline-1-carboxylate | 1.2 mmol, 510 mg | COC(=O)C1=CC=C(C=C1)[C@H](C)NC(=O)C=1C=CC=C2CCN(C12)C(=O)OC(C)(C)C | C24H28N2O5
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-{(1S)-1-[(2,3-dihydro-1H-indol-7-ylcarbonyl)amino]ethyl}benzoate | N1CCC2=CC=CC(=C12)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C19H20N2O3
